US07956077B2
2-{(1R,3S)-3-[5-ethyl-2-(3-methoxyphenyl)oxazol-4-ylmethoxy]cyclohexylmethoxy}-2-methylpropionic acid
300 mg of tert-butyl 2-{(1R,3S)-3-[5-ethyl-2-(3-methoxyphenyl)oxazol-4-ylmethoxy]-cyclohexylmethoxy}-2-methylpropionate are left to stand in 1 ml of trifluoroacetic acid at RT overnight. The solution is completely evaporated, water is added to the residue, and the pH is adjusted to 3 with sodium bicarbonate solution. The solution is extracted with ethyl acetate, and the organic phase is washed twice with water, dried over magnesium sulfate and concentrated. The residue is chromatographed on silica gel (dichloromethane/methanol gradient), resulting in 256 mg of 2-{(1R,3S)-3-[5-ethyl-2-(3-methoxyphenyl)oxazol-4-ylmethoxy]cyclohexylmethoxy}-2-methylpropionic acid as yellow resin.

reactant | tert-butyl 2-{(1R,3S)-3-[5-ethyl-2-(3-methoxyphenyl)oxazol-4-ylmethoxy]-cyclohexylmethoxy}-2-methylpropionate | 300 mg | C(C)C1=C(N=C(O1)C1=CC(=CC=C1)OC)CO[C@@H]1C[C@@H](CCC1)COC(C(=O)OC(C)(C)C)(C)C | C28H41NO6
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-{(1R,3S)-3-[5-ethyl-2-(3-methoxyphenyl)oxazol-4-ylmethoxy]cyclohexylmethoxy}-2-methylpropionic acid | C(C)C1=C(N=C(O1)C1=CC(=CC=C1)OC)CO[C@@H]1C[C@@H](CCC1)COC(C(=O)O)(C)C | C24H33NO6
